US08440830B2
To a solution of compound 5-(tert-butoxycarbonyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (1.0 eq) in DMF was added triethyl amine (2.2 eq), Bis (2-oxo-3-oxazolidinyl) phosphonic chloride (BOP, 1.2 eq.) and stirred for 1 hr. Monoboc phenylene diamine was added and reaction was stirred for 24 hrs. Reaction mixture was then quenched with water and extracted with ethyl acetate, dried over sodium sulphate and concentrated to dryness. Crude mass was then purified by silica gel column chromatography to afford tert-butyl 2-({2-[(tert-butoxycarbonyl)amino]phenyl}carbamoyl)-1,4,6,7-tetrahydro-5H-pyrrolo[3,2-c]pyridine-5-carboxylate, which was then reacted with hydrochloric acid saturated diethyl ether to get N-(2-aminophenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2]pyridine-2-carboxamide

reactant | 5-(tert-butoxycarbonyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid | 1.0 eq | C(C)(C)(C)OC(=O)N1CC2=C(CC1)NC(=C2)C(=O)O | C13H18N2O4
reactant | triethyl amine | 2.2 eq | C(C)N(CC)CC | C6H15N
reactant | Bis (2-oxo-3-oxazolidinyl) phosphonic chloride | 1.2 eq. | O=C1OCCN1[ClH]P(=O)[ClH]N1C(OCC1)=O | C6H11Cl2N2O5P
reactant | Monoboc phenylene diamine | C(=O)(OC(C)(C)C)NC1=C(C=CC=C1)N | C11H16N2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl 2-({2-[(tert-butoxycarbonyl)amino]phenyl}carbamoyl)-1,4,6,7-tetrahydro-5H-pyrrolo[3,2-c]pyridine-5-carboxylate | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(=O)C1=CC=2CN(CCC2N1)C(=O)OC(C)(C)C | C24H32N4O5
